US08729271B2
To an ice-cold solution of 2-bromo-3-fluoro-6-picoline (1.00 g) in chloroform (25 mL) was added 3-chloroperoxybenzoic acid (1.77 g), and the mixture was stirred while warming to room temperature for 22 hr. After cooling in ice again, additional 3-chloroperoxybenzoic acid (590 mg) was added and the mixture was stirred while warming to room temperature for 21 hr. An aqueous sodium thiosulfate solution was added to the reaction mixture, and the resulting mixture was then stirred. Thereafter, saturated aqueous sodium hydrogen carbonate solution and water were added thereto, followed by extraction with chloroform. The organic phase was washed with brine, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=98:2-0:100) to afford 2-bromo-3-fluoro-6-methylpyridine 1-oxide (604 mg).

reactant | 2-bromo-3-fluoro-6-picoline | 1.00 g | BrC1=NC(=CC=C1F)C | C6H5BrFN
reactant | 3-chloroperoxybenzoic acid | 1.77 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-chloroperoxybenzoic acid | 590 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-bromo-3-fluoro-6-methylpyridine 1-oxide | 604 mg | BrC1=[N+](C(=CC=C1F)C)[O-] | C6H5BrFNO
